Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
G-tube exchange (___)

 
History of Present Illness:
___ with hx cirrhosis (MELDNa 23) c/b ascites, SBP on ppx, HE,
HRS on midodrine, s/p rou-en-Y gastric bypass c/b recurrent
anastomotic c/b strictures requiring multiple endoscopic
dilations, and multiple abdominal surgeries for bowel 
anastomosis
complications (including bowel perforation) now on TPN for
nutrition who presents with 2 weeks of weight gain, edema and
generalized weakness.  

She was recently admitted ___ for abdominal pain, ___ and
___ of unclear etiology. During that admission she
developed volume overload in setting of albumin administration
requiring nasal cannula briefly, and was diuresed. TTE performed
with mild-mod pulm HTN and preserved biventricular systolic
function. She was ultimately discharged on 60mg torsemide and
50mg spironolactone daily. She was discharged on TPN for
nutrition, has been taking meds by Gtube and no other dietary
intake. She reports good med compliance. Since time of discharge
she reports progressive edema diffusely throughout her body,
consistent with prior instances of volume overload. Reports
orthopnea, dyspnea with activity, and progressive generalized
fatigue. Tmax 99.9 at home, some chills. Had sore throat x3 days
now resolved. No chest pain, PND, rhinorrhea or current sore
throat, nausea vomiting, constipation, melena, hematochezia, or
confusion. Has been having ___ BMs per day and compliant with
lactulose. Has been able to ambulate including one set of stairs
yesterday, but causes excessive fatigue. Thinks could walk half
hallway before stopping to rest. Finally, she reports an episode
of near syncope yesterday when turning to her R which has since
resolved. 
 
In the ED, initial VS were:  98.3 88 118/67 19 94% RA 
Exam notable for: 
- Bedside US without pocket to tap, with sig subcuatenous edema
Labs showed:  INR: 2.2, Cr 0.8, Hb 7.3 and plt 56 (Baseline for
pt), lactate 1.0
Patient received: 
- ___ 18:45 PO TraMADol 50 mg 
Hepatology was consulted  
Transfer VS were:  98.2 88 108/43 16 97% RA 

On arrival to the floor, patient reports feeling fatigued. She
knows she needs IV diuresis but would rather wait until morning. 

 
REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI  
 
Past Medical History:
- ETOH cirrhosis complicated by ascites, HE, SBP
- Obesity  
     - s/p gastric bypass c/b stricture of the gastrojejunal  
     anastomosis and internal hernia causing SBO s/p multiple  
     endoscopic dilations c/b perforation (as detailed below)  
- SBO as above  
- Exploratory laparotomy, takedown old gastrojejunostomy,  
gastrogastrostomy, feeding jejunostomy (___ ___ for  
perforated gastrojejunal anastomosis site with reopening of  
recent laparotomy and closure of gastrostomy (___ ___  
- Epileptiform discharges concerning for possible seizure in  
setting of altered mental status, started on keppra ___  
- numerous hospitalizations for abdominal pain, requiring  
paracenteses  
- depression/anxiety  
- GERD  
- hx of Cdiff  
- IBS  
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia  
- Right breast lesions s/p U/S guided core biopsy on ___ -  
pathology showing fibroadipose tissue with blood, fibrin, and  
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications 
 
Social History:
___
Family History:
- father w/ diabetes  
- maternal grandfather has unknown cancer  
- She has no family history of liver disease, hemochromatosis,  
 autoimmune diseases, or non-smoker emphysema 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS:  97.5 PO 100 / 61 85 16 96 Ra 
GENERAL: NAD, alert, oriented 
HEENT: EOMI, anicteric sclera, pink conjunctiva, MMM  
Neck: No JVD appreciated 
HEART: Regular rate, systolic murmur loudest over LUSB 
LUNGS: bibasilar crackles, CTAB, no wheezes, breathing
comfortably on room air without use of accessory muscles  
ABDOMEN: nondistended, soft, mild subjective tenderness
throughout but without rebound/guarding, G tube in place without
erythema/drainage. Fistula site with green drainage with small
flecks of blood but no e/o cellulitis. 
EXTREMITIES: 3+ edema bilaterally, warm 
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused
LINES: LUE PICC without any erythema 

DISCHARGE PHYSICAL EXAM
VS: 97.8 PO 105 / 62 80 18 94 RA
GENERAL: Pleasant middle-aged woman, in NAD, alert, oriented,
appears comfortable
HEENT: EOMI, anicteric sclera, pink conjunctiva, MMM   
HEART: RRR, systolic murmur loudest over LUSB (___), normal
s1/s2, no rubs, gallops, or thrills 
LUNGS: Crackles at the bases of both lungs, no wheezes or
rhonchi, breathing comfortably on RA
ABDOMEN: nondistended, soft, mild tenderness throughout but
without rebound/guarding, G tube in place without
erythema/drainage. Fistula site with small amount of frankly
bloody discharge, not actively bleeding.
EXTREMITIES: ___ lower extremity edema to the mid-shin
bilaterally (stable), warm and well perfused, no clubbing or
cyanosis 
NEURO: A&Ox3, moving all 4 extremities with purpose. No 
asterixis
SKIN: No rashes or other lesions
 
Pertinent Results:
ADMISSION LABS
___ 11:40AM BLOOD WBC-6.4 RBC-1.96* Hgb-7.3* Hct-22.1* 
MCV-113* MCH-37.2* MCHC-33.0 RDW-21.4* RDWSD-88.3* Plt Ct-56*
___ 11:40AM BLOOD Neuts-73.5* Lymphs-11.6* Monos-13.4* 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-4.71 AbsLymp-0.74* 
AbsMono-0.86* AbsEos-0.05 AbsBaso-0.01
___ 11:40AM BLOOD ___ PTT-43.4* ___
___ 11:40AM BLOOD Glucose-95 UreaN-43* Creat-0.8 Na-134* 
K-4.3 Cl-98 HCO3-24 AnGap-12
___ 11:40AM BLOOD ALT-16 AST-47* AlkPhos-92 TotBili-3.0*
___ 11:40AM BLOOD Albumin-3.0* Calcium-8.7 Phos-4.7* Mg-1.9
___ 12:13PM BLOOD Lactate-1.0

PERTINENT LABS
___ 05:22AM BLOOD WBC-4.8 RBC-1.82* Hgb-6.8* Hct-20.1* 
MCV-110* MCH-37.4* MCHC-33.8 RDW-21.4* RDWSD-87.3* Plt Ct-51*
___ 05:15AM BLOOD WBC-6.5 RBC-2.05* Hgb-7.5* Hct-22.4* 
MCV-109* MCH-36.6* MCHC-33.5 RDW-22.0* RDWSD-87.7* Plt Ct-54*
___ 06:00AM BLOOD WBC-6.3 RBC-2.00* Hgb-7.4* Hct-22.1* 
MCV-111* MCH-37.0* MCHC-33.5 RDW-20.9* RDWSD-83.3* Plt Ct-46*
___ 06:00AM BLOOD ___
___ 05:22AM BLOOD ALT-15 AST-44* AlkPhos-88 TotBili-3.7*
___ 05:47AM BLOOD ALT-19 AST-55* LD(LDH)-178 AlkPhos-82 
TotBili-2.4*
___ 05:27AM BLOOD ALT-24 AST-65* LD(___)-164 AlkPhos-83 
TotBili-2.0*
___ 05:15AM BLOOD Triglyc-40
___ 05:15AM BLOOD CRP-68.3*

DISCHARGE LABS
___ 07:10AM BLOOD WBC-8.7 RBC-2.00* Hgb-7.4* Hct-22.6* 
MCV-113* MCH-37.0* MCHC-32.7 RDW-21.0* RDWSD-86.2* Plt Ct-61*
___ 07:10AM BLOOD ___
___ 07:10AM BLOOD Glucose-106* UreaN-26* Creat-0.6 Na-134* 
K-4.8 Cl-95* HCO3-28 AnGap-11
___ 07:10AM BLOOD ALT-26 AST-76* LD(LDH)-192 AlkPhos-81 
TotBili-2.2*
___ 07:10AM BLOOD Albumin-2.7* Calcium-8.3* Phos-4.4 Mg-2.0

IMAGING/STUDIES
CXR (___)- 1. Mild pulmonary vascular congestion.
2. Left retrocardiac opacity is likely due to atelectasis and a 
small
effusion, although superimposed infection may be considered in 
the appropriate
clinical setting.

RUQ U/S (___)- Liver cirrhosis with sequelae of portal 
hypertension, including ascites and
splenomegaly. Small right pleural effusion.

CXR (___)- Compared to chest radiographs ___ through 
___.
Moderate pulmonary edema which improved between ___ and 
___
has worsened again.  Concurrent pneumonia would be difficult to 
recognize. 
Mild cardiomegaly is chronic.  Pleural effusions small if any.
 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with a history of EtOH 
cirrhosis (MELD 21 on admission) c/b ascites, SBP on ppx, HE, 
?HRS on midodrine, s/p roux-en-Y gastric bypass c/b recurrent 
anastomotic strictures requiring multiple endoscopic dilations, 
and multiple abdominal surgeries for bowel anastomosis 
complications (including bowel perforation), now on TPN for 
nutrition, who presented with volume overload. Also found to 
have possible pneumonia. Now with improvement in volume overload 
and improving PO nutrition.

ACUTE ISSUES
# Dyspnea
# Anasarca: Progressive weakness and dyspnea i/s/o significant 
weight gain. Volume overload appears to have been 
slow/progressive per patient despite med compliance, and was 
likely related to low oncotic pressure secondary to poor 
nutrition and underlying cirrhosis. She had no chest pain or EKG 
changes to suggest current or interval cardiac ischemia. TTE 
recently done with preserved biventricular systolic function, 
and no significant valvular disease. The patient was started on 
high dose IV diuresis (up to 120mg Lasix BID) with good effect 
and improvement in shortness of breath and anasarca. She was 
then switched to increased doses of PO torsemide and 
spironolactone prior to discharge.

# Pneumonia: The patient was noted to have an infiltrate on CXR 
after having a new oxygen requirement and leukocytosis to 11 at 
that time. Concern was for CAP. Patient remained otherwise 
stable. She was started on ceftriaxone and azithromycin and 
completed a course of each antibiotic (7 and 5 days, 
respectively) with improvement in symptoms.

# Malnutrition: Hx of Roux-en-Y gastric bypass c/b recurrent 
anastomotic strictures requiring multiple endoscopic dilations, 
and multiple abdominal surgeries for bowel anastomosis 
complications (including bowel perforation). Currently has 
G-tube, which has been functioning through which she receives 
her PO meds. G-tube was noted to be cracked and was exchanged on 
___ by ___ without complications. The patient was noted to be 
able to increase her PO intake, and as a result, had her TPN 
volume decreased to 1600cc at the time of discharge. The patient 
also has a fistulous tract, which has been putting out a small 
amount of greenish output from J-tube site. This is stable.

CHRONIC ISSUES
# EtOH cirrhosis: Childs B, MELD 21 on admission. EtOH cirrhosis 
c/b ascites, HE, SBP, and HRS. No varices on last EGD in ___. 
Last drink ___, not a transplant candidate per recent 
documentation due to co-morbidities. At this time no evidence of 
acute decompensation, some ascites on ultrasound, no 
encephalopathy, labs at baseline.

# Anemia: Anemic in the 7s on admission, downtrended to 6.8. 
Likely related to underlying chronic disease. Transfused 1U 
pRBCs on ___. Now stable in low-mid-7s.

# Chronic pain: In the past has seen palliative care for ongoing 
abdominal pain. Remained at baseline.

TRANSITIONAL ISSUES
[] diuretic regimen on discharge: torsemide 80mg, spironolactone 
100mg
[] if patient gaining weight, should attempt to titrate 
diuretics as outpatient before being admitted - patient 
counseled extensively on calling ___ clinic if any weight 
gain.
[] should get ___ labs - to be faxed to PCP and Dr. 
___ - ___ given. Going home with services and home ___.
[] Follow up CT scan in ___ weeks of pulmonary nodules 
(___).
[] Reassess metoclopramide dose as needed 
[] continue to uptitrate PO intake as tolerated; can 
subsequently consider weaning down TPN
[] discharge weight: 106.6 kg (235.01 lb)

#CODE: FULL CODE (confirmed) 
#CONTACT: Patient would like her boyfriend ___ to be her 
emergency contact ___. Her main healthcare proxies are 
her parents: ___ (mother), ___ (father) 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
2. Ciprofloxacin HCl 500 mg PO DAILY 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Moderate 
6. Lactulose 30 mL PO Q6H 
7. LevETIRAcetam Oral Solution 1000 mg PO BID 
8. Lidocaine 5% Ointment 1 Appl TP BID:PRN Pain around g tube 
9. Methylnaltrexone 12 mg Subcut DAILY 
10. Midodrine 10 mg PO TID 
11. Rifaximin 550 mg PO BID 
12. Simethicone 40-80 mg PO QID:PRN gas pain 
13. TraMADol 50 mg PO BID 
14. Bisacodyl 10 mg PO/PR DAILY 
15. Multivitamins 1 TAB PO DAILY 
16. Omeprazole 40 mg PO DAILY 
17. Polyethylene Glycol 17 g PO DAILY 
18. Senna 8.6 mg PO BID 
19. Thiamine 100 mg PO DAILY 
20. Metoclopramide 5 mg PO Q6H 
21. Spironolactone 50 mg PO DAILY 
22. Torsemide 60 mg PO DAILY 
23. Vitamin D ___ UNIT PO 1X/WEEK (MO) 

 
Discharge Medications:
1.  Spironolactone 100 mg PO DAILY 
RX *spironolactone 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Torsemide 80 mg PO DAILY 
RX *torsemide 20 mg 4 tablet(s) by mouth daily Disp #*120 Tablet 
Refills:*0 
3.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
4.  Bisacodyl 10 mg PO/PR DAILY  
5.  Ciprofloxacin HCl 500 mg PO DAILY  
6.  Escitalopram Oxalate 20 mg PO DAILY  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Lactulose 30 mL PO Q6H  
9.  LevETIRAcetam Oral Solution 1000 mg PO BID  
10.  Lidocaine 5% Ointment 1 Appl TP BID:PRN Pain around g tube  

11.  Methylnaltrexone 12 mg Subcut DAILY  
12.  Metoclopramide 5 mg PO Q6H  
13.  Midodrine 10 mg PO TID  
14.  Multivitamins 1 TAB PO DAILY  
15.  Omeprazole 40 mg PO DAILY  
16.  Polyethylene Glycol 17 g PO DAILY  
17.  Rifaximin 550 mg PO BID  
18.  Senna 8.6 mg PO BID  
19.  Simethicone 40-80 mg PO QID:PRN gas pain  
20.  Thiamine 100 mg PO DAILY  
21.  TraMADol 50 mg PO BID  
22.  Vitamin D ___ UNIT PO 1X/WEEK (MO)  
23.Outpatient Lab Work
Please draw CBC, sodium, potassium, chloride, bicarb, BUN, 
creatinine, AST, ALT, alk phos, Tbili, and albumin on ___. 
Results should be faxed to ___. at ___ and 
___ at ___
ICD-10: ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Anasarca
Pneumonia

Secondary:
Alcoholic cirrhosis
Anemia
Malnutrition
Chronic pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
- You were feeling short of breath when exerting yourself
- Your legs were more swollen than usual and you were having 
pain as a result of this

What was done while I was in the hospital?
- You were given IV diuretics, which significantly improved your 
leg swelling and shortness of breath; these were then switched 
to oral diuretics
- You were started on antibiotics for pneumonia, which you 
completed while you were in the hospital
- You had your G-tube replaced by the radiologists

What should I do when I get home from the hospital?
- Be sure to take all of your medications as prescribed, 
especially your diuretics (torsemide and spironolactone)
- Weigh yourself every day in the morning; if you gain more than 
3 pounds, please call your liver doctor so that they can decide 
if they want to increase your diuretics
- Discharge weight: 106.6 kg   (235.01 lb)  
- Please go to your follow-up appointment with your primary care 
doctor and your liver doctor
- If you have fevers, chills, shortness of breath, worsening leg 
swelling, or generally feel unwell, please call your doctor or 
go to the emergency room

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___